US06562828B1
7-[1-(2-Chloropyrimdin-4-yl)-4-ethoxycarbonylpiperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid Benzyl Ester
To a solution of 7-(4-ethoxycarbonylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid benzyl ester (295 mg) in ethanol (5 ml) were added triethylamine (0.15 ml) and 2,4-dichloropyrimidine (150 mg), and the mixture was stirred under reflux for 1 hour. After completion of the reaction, water was added and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:2) and dried under reduced pressure to give the title compound (263 mg).

reactant | 7-(4-ethoxycarbonylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid benzyl ester | 295 mg | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1(CCNCC1)C(=O)OCC | C26H32N2O5
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloropyrimidine | 150 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | water | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-[1-(2-Chloropyrimdin-4-yl)-4-ethoxycarbonylpiperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid Benzyl Ester | 263 mg | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1(CCN(CC1)C1=NC(=NC=C1)Cl)C(=O)OCC | C30H33ClN4O5
